US06503907B2
3.17 g (10 mmol) 5-Benzyloxy-1-(4-fluoro-phenyl)-1H-indole in 25 ml acetic acid was hydrogenated in the presence of 300 mg 10%Pd/C, filtered and hydrogenated with 60 mg PtO2 for 3 h. The catalyst was removed by filtration and the solution concentrated. The residue was dissolved in 15 ml trifluoroacetic acid and treated with 1.9 g (30 mml) sodium cyanoborhydride at 0° C. The solution was stirred at RT for 30 min, concentrated and dissolved in ether, 0.5M NaOH. The inorganic phase was extracted with ether, the combined organic phases were washed with brine and dried over Na2SO4. Column chromatography on silica gel with CH2Cl2/MeOH 19:1 yielded 1.0 g (44%) 1-(4-Fluoro-phenyl)-2,3-dihydro-1H-indol-5-ol as colorless solid; MS: 229 (M).

reactant | 5-Benzyloxy-1-(4-fluoro-phenyl)-1H-indole | 10 mmol, 3.17 g | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C21H16FNO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | 1-(4-Fluoro-phenyl)-2,3-dihydro-1H-indol-5-ol | 1.0 g, 44% | FC1=CC=C(C=C1)N1CCC2=CC(=CC=C12)O | C14H12FNO
